US06995144B2
2-tert-Butoxy-3-[2-[4-(2-fluorophenoxymethyl)piperidino]ethyl]pyrazine
After adding 139 mg of (Z)-2-tert-butoxy-3-(2-methoxyvinyl)pyrazine and 196 mg of 4-(2-fluorophenoxymethyl)piperidine hydrochloride in 5 ml of dichloromethane, 213 mg of sodium triacetoxyborohydride was added and the mixture was stirred overnight at room temperature. Aqueous sodium carbonate solution was added to the reaction mixture and extraction was performed with ethyl acetate. The organic layer was washed with water and saturated brine in that order and dried over anhydrous magnesium sulfate, and then the solvent was distilled off under reduced pressure. The residue was purified by silica gel column chromatography (solvent: n-hexane/ethyl acetate) to obtain the title compound (26 mg, 10% yield).

reactant | (Z)-2-tert-butoxy-3-(2-methoxyvinyl)pyrazine | 139 mg | C(C)(C)(C)OC1=NC=CN=C1\C=C/OC | C11H16N2O2
reactant | 4-(2-fluorophenoxymethyl)piperidine hydrochloride | 196 mg | Cl.FC1=C(OCC2CCNCC2)C=CC=C1
reactant | sodium triacetoxyborohydride | 213 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | dichloromethane | 5 ml | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-tert-Butoxy-3-[2-[4-(2-fluorophenoxymethyl)piperidino]ethyl]pyrazine | 26 mg, 10% yield | C(C)(C)(C)OC1=NC=CN=C1CCN1CCC(CC1)COC1=C(C=CC=C1)F | C22H30FN3O2
